US07691882B2
1-(2-Nitro-ethyl)-3-phenoxy-benzen
To a dimethyl sulfoxide (30.0 mL) solution of 1-((E)-2-nitro-vinyl)-3-phenoxy-benzene (3.60 g, 14.9 mmol) described in Manufacturing Example 64-1-1 and acetic acid (3.00 mL) was added sodium borohydride (902 mg, 23.8 mmol) at room temperature while cooling appropriately under nitrogen atmosphere, which was stirred for 3 minutes. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduce pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (2.47 g, 68.1%).

reactant | dimethyl sulfoxide | 30.0 mL | CS(=O)C | C2H6OS
reactant | 1-((E)-2-nitro-vinyl)-3-phenoxy-benzene | 14.9 mmol, 3.60 g | [N+](=O)([O-])/C=C/C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H11NO3
reactant | acetic acid | 3.00 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 23.8 mmol, 902 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 1-(2-Nitro-ethyl)-3-phenoxy-benzen | 2.47 g, 68.1% | [N+](=O)([O-])CCC1=CC(=CC=C1)OC1=CC=CC=C1 | C14H13NO3
